US06004977
To a solution of (7-methoxy-1,3,4,5-tetrahydro-2-benzo[c]azepinyl)-4-pyridinylamine in dichloromethane (50 ml) was added boron tribromide (3.9 ml) at 0° C. The reaction mixture was stirred for 2 hrs at ambient temperature, methanol was added, and the mixture was concentrated in vacuo to afford (7-hydroxy-1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine hydrobromide. (7-Hydroxy- 1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine hydrobromide was neutralized with sodium bicarbonate solution to afford 1.3 g of (7-hydroxy-1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine. To a solution of (7-hydroxy-1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine (1.2 g) in chloroform (30 ml) was added dimethyl carbamyl chloride (0.48 ml) followed by triethylamine (1.43 ml). The reaction mixture was heated under reflux, with stirring, for 2 hrs, allowed to cool to ambient temperature, and dichloromethane (200 ml) was added. The organic extract was washed with saturated sodium bicarbonate (100 ml), dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed over silica gel, eluting with dichloromethane:methanol (9:1). The appropriate fractions were collected and concentrated. The residue was dissolved in methanol, acidified with concentrated hydrochloric acid, and concentrated in vacuo. The residue was triturated with petroleum ether and filtered to give 0.72 g (44%) of product, mp 100-110° C.

reactant | 7-Hydroxy- 1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine hydrobromide | Br.OC1=CC=2C(=C(NC=CC2)C2NCCC(C2)N)C=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-hydroxy-1,3,4,5-tetrahydro-2-benzo[c]azepinyl-4-pyridinylamine | OC1=CC=2C(=C(NC=CC2)C2NCCC(C2)N)C=C1 | C15H19N3O
